US04618712
4,4'-Methylene-bis-(N-acetyl-phenylcyanamide)
124.1 g (0.5 mol) of 4,4'-methylene-bis-(phenylcyanamide) and 510.5 g (1.0 mol+400% excess) of acetic anhydride are reacted at 73°-83° C. for 4 hours and 10 minutes, 465 ml of diethyl ether are then added and the mixture is cooled. The suspension is filtered with suction and the residue is dried at 50° C. in vacuo to give 139.6 g (84.0% of theory) of a crystalline product which, after recrystallisation from toluene, has a melting point of 134°-136° C.

reactant | 4,4'-methylene-bis-(phenylcyanamide) | 0.5 mol, 124.1 g | C(C1=CC=C(C=C1)NC#N)C1=CC=C(C=C1)NC#N | C15H12N4
reactant | acetic anhydride | 1.0 mol, 510.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | diethyl ether | 465 ml | C(C)OCC | C4H10O
product | 4,4'-Methylene-bis-(N-acetyl-phenylcyanamide) | C(C1=CC=C(C=C1)N(C#N)C(C)=O)C1=CC=C(C=C1)N(C#N)C(C)=O | C19H16N4O2
